US07419984B2
2-{4-[2-Amino-6-(2,5-dimethyl-phenyl)-pyrimidin-4-ylamino]-phenyl}-ethanol
Following the method described in Example 4, 4-chloro-6-(2,5-dimethyl-phenyl)-pyrimidin-2-yl-amine and 4-aminophenethyl alcohol provided the title compound as hydrochloride salt (85% yield). 1H NMR (DMSO-d6) δ 2.29 (s, 6H, CH3), 6.30 (s, 1H, Ar), 7.24-7.31 (m, 5H, Ar), 7.68 (d, 2H, J=8.0 Hz, Ar), 10.67 (s, 1H), 12.54 (s, 1H).

reactant | 4-chloro-6-(2,5-dimethyl-phenyl)-pyrimidin-2-yl-amine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)C)C)N | C12H12ClN3
reactant | 4-aminophenethyl alcohol | NC1=CC=C(CCO)C=C1 | C8H11NO
product | 2-{4-[2-Amino-6-(2,5-dimethyl-phenyl)-pyrimidin-4-ylamino]-phenyl}-ethanol | NC1=NC(=CC(=N1)NC1=CC=C(C=C1)CCO)C1=C(C=CC(=C1)C)C | C20H22N4O
